US04898858
280 mg (0.28 mmol) of p-methoxybenzyl 3-chloromethyl-7-{(2-tritylamino-4-thiazolyl)-2-(1-diphenylmethoxycarbonyl-ethoxyimino)acetamido}-ceph-3-em-4-carboxylate-syn isomer was dissolved in 3 ml of acetone, and 1.0 ml of acetone solution containing 60 mg (0.4 mmol) of sodium iodide was added to the resulting solution at room temperature and reacted for 40 minutes. After the reaction, the solvent was distilled out, and methylene chloride was added to the resulting residue, the insoluble materials were filtered off, and the remaining filtrate was concentrated under reduced pressure, to obtain p-methoxybenzyl 3-iodomethyl-7- {2-(2-tritylamino-4-thiazolyl)-2-(1-diphenylmethoxycarbonyl-ethoxyimino)acetamido}-ceph-3-em- 4-carboxylate-syn isomer. To this was added 52 mg (0.34 mmol) of 1-(2-fluoroethyl)-4-pyridothione, and the resulting mixture was dissolved in 3 ml of chloroform and reacted for 1 hour at room temperature. After the reaction, the chloroform was distilled out under reduced pressure, and the residue was purified by silicagel-chromatography (chloroform/ethanol=10/1) and dissolved in 0.8 ml of anisol, and then, 4.0 ml of trifluoroacetic acid was added thereto, while cooled with ice, and reacted for 1 hour. After the reaction, isopropylether was added to the reaction solution to form a precipitate. After dried, 190 mg of a powder was obtained. To this was added 1 ml of water and the pH value of the resulting solution was adjusted to 7.8 with sodium hydrogencarbonate, and the solution was purified with HP-20 resin (methanol/H2O=1/4) to obtain 110 mg of the above-entitled compound.

reactant | p-methoxybenzyl 3-chloromethyl-7-{(2-tritylamino-4-thiazolyl)-2-(1-diphenylmethoxycarbonyl-ethoxyimino)acetamido}-ceph-3-em-4-carboxylate | 0.28 mmol, 280 mg | ClCC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C(C2NC(C(=NOC(C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C56H48ClN5O8S2
reactant | sodium iodide | 0.4 mmol, 60 mg | [I-].[Na+]
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | acetone | 1.0 ml | CC(=O)C | C3H6O
product | p-methoxybenzyl 3-iodomethyl-7- {2-(2-tritylamino-4-thiazolyl)-2-(1-diphenylmethoxycarbonyl-ethoxyimino)acetamido}-ceph-3-em- 4-carboxylate | ICC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C(C2NC(C(=NOC(C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C56H48IN5O8S2
